US09359338B2
Step 1: Synthesis of 1-methyl-N-[4-nitro-2-(trifluoromethyl)phenyl]piperidin-4-amine
Dissolve 1-chloro-4-nitro-2-(trifluoromethyl)benzene (1.0 g, 4.44 mmol) in DMSO (5 mL), add 1-methylpiperidin-4-amine (0.56 g, 4.89 mmol) and DIEA (1.72 g, 13.3 mmol) and stir the reaction at 80° C. overnight. TLC (DCM:MeOH=10:1) shows the reaction is complete. Add water, extract with EtOAc (10 mL×3), combine the organic layers, wash with water and brine sequentially, and dry over anhydrous Na2SO4. Concentrate under reduced pressure to get the crude product. Purification by chromatography (silica gel, MeOH:DCM=1:15) affords the title compound (587 mg, 44%). MS: (M+1): 304.2.

reactant | 1-chloro-4-nitro-2-(trifluoromethyl)benzene | 4.44 mmol, 1.0 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C7H3ClF3NO2
reactant | 1-methylpiperidin-4-amine | 4.89 mmol, 0.56 g | CN1CCC(CC1)N | C6H14N2
reactant | DIEA | 13.3 mmol, 1.72 g | CCN(C(C)C)C(C)C | C8H19N
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | MeOH | CO | CH4O
product | 1-methyl-N-[4-nitro-2-(trifluoromethyl)phenyl]piperidin-4-amine | 587 mg, 44% | CN1CCC(CC1)NC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C13H16F3N3O2
